US08461179B1
A suspension of prop-1-en-2-yl (3-(4-fluoro-2-methyl-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)carbamate (0.1 g, 0.189 mmol) in dioxane (3 mL) was treated with azetidine hydrochloride (0.071 g, 0.755 mmol) and 1-methylpyrrolidine (0.129 g, 1.511 mmol) and heated at 70° C. for 16 h, then cooled to RT and stirred for 24 h. The mixture was concentrated to dryness and purified via reverse-phase chromatography (MeCN/H2O with 0.1% TFA). The fractions were neutralized with satd. NaHCO3, extracted with EtOAc (2×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness to afford N-(3-(4-fluoro-2-methyl-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)azetidine-1-carboxamide (43 mg, 43% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.34 (s, 1H), 9.01 (s, 1H), 8.60 (s, 1H), 8.49 (s, 1H), 8.38 (s, 1H), 7.97 (d, J=8.4 Hz, 1H), 7.80 (s, 1H), 7.41 (d, J=8.0 Hz, 2H), 7.25 (t, J=7.8 Hz, 2H), 7.14 (d, J=12.2 Hz, 1H), 6.95 (t, J=7.4 Hz, 1H), 5.35 (m, 1H), 4.02 (t, J=7.5 Hz, 4H), 2.17 (t, J=7.7 Hz, 2H), 2.07 (s, 3H), 1.55 (d, J=7.0 Hz, 6H); MS (ESI) m/z: 529.2 [M+H]+.

reactant | prop-1-en-2-yl (3-(4-fluoro-2-methyl-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)carbamate | 0.189 mmol, 0.1 g | FC1=CC(=C(C=C1NC(=O)NC1=CC=CC=C1)C=1C(N(C2=CC(=NC=C2C1)NC(OC(=C)C)=O)C(C)C)=O)C | C29H28FN5O4
reactant | azetidine hydrochloride | 0.755 mmol, 0.071 g | Cl.N1CCC1
reactant | 1-methylpyrrolidine | 1.511 mmol, 0.129 g | CN1CCCC1 | C5H11N
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(3-(4-fluoro-2-methyl-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)azetidine-1-carboxamide | 43 mg, 43% yield | FC1=CC(=C(C=C1NC(=O)NC1=CC=CC=C1)C=1C(N(C2=CC(=NC=C2C1)NC(=O)N1CCC1)C(C)C)=O)C | C29H29FN6O3
